US07674397B2
Step 5.3: 5-[4-(5′-{4-[4-(1-Vinyl-alloxycarbonyl)-butyl]-phenyl}-[2,2′]bithiophenyl-5-yl)-phenyl]-pentanoic acid 1-vinyl-allyl ester (5)
5-(4-{5′-[4-(4-Carboxy-butyl)-phenyl]-[2,2′]bithiophenyl-5-yl}-phenyl)-pentanoic acid (1.05 g, 2.02 mmol) and 1,4-pentadien-3-ol (0.42 g, 5.0 mmol) are suspended in NMP (52 mL). 1-(3-Dimethlaminopropyl)-3-ethylcarbodiimide hydrochloride [EDCI] (0.96 g, 5.0 mmol) is added, followed by 4-dimethylaminopyridine (0.61 g, 4.9 mmol) and the mixture is warmed to 50° C. for 10 min. The resulting solution is stirred at room temperature for 3 days. The mixture is poured into water (300 ml) and the resulting precipitate filtered. The solid is dissolved in THF (300 mL), filtered and dry loaded onto silica. The silica is loaded onto a dry silica column and eluted with petrol/dichloromethane (4:1) to remove non-coloured products. The eluent is changed to chloroform and the coloured fractions are collected to afford crude product (1.06 g). A portion (0.5 g) is further purified by reverse phase chromatography (eluent: acetonitrile/THF 9:1 to 1:1, gradient). Final recrystallisation from ethyl acetate afforded the product (0.15 g). 1H NMR (300 MHz, CDCl3): δ (ppm) 7.51 (d, 4H), 7.20 (s, 4H), 7.14 (d, 4H), 5.83 (m, 4H), 5.71 (m, 2H), 5.25 (m, 8H), 2.64 (t, 4H), 2.38 (t,0 4H), 1.73-1.63 (m, 8H); 13C NMR (75 MHz, CDCl3): δ (ppm) 172.4, 143.2, 142.8, 136.4, 135.2, 129.0, 125.6, 125.5, 124.4, 123.4, 117.4, 74.9, 34.9, 34.0, 30.1, 25.9. m.p. (° C.) K 75 SX 174 I.

reactant | 5-(4-{5′-[4-(4-Carboxy-butyl)-phenyl]-[2,2′]bithiophenyl-5-yl}-phenyl)-pentanoic acid | 2.02 mmol, 1.05 g | C(=O)(O)CCCCC1=CC=C(C=C1)C1=CC=C(S1)C=1SC(=CC1)C1=CC=C(C=C1)CCCCC(=O)O | C30H30O4S2
reactant | 1,4-pentadien-3-ol | 5.0 mmol, 0.42 g | C=CC(C=C)O | C5H8O
reactant | 1-(3-Dimethlaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.0 mmol, 0.96 g | Cl.CN(CCCN=C=NCC)C
reactant | water | 300 ml | O | H2O
reactant | NMP | 52 mL | CN1CCCC1=O | C5H9NO
catalyst | 4-dimethylaminopyridine | 4.9 mmol, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-[4-(5′-{4-[4-(1-Vinyl-alloxycarbonyl)-butyl]-phenyl}-[2,2′]bithiophenyl-5-yl)-phenyl]-pentanoic acid 1-vinyl-allyl ester | 0.15 g | C(=C)C(C=C)OC(CCCCC1=CC=C(C=C1)C1=CC=C(S1)C=1SC(=CC1)C1=CC=C(C=C1)CCCCC(=O)OC(C=C)C=C)=O | C40H42O4S2
